US05192803
Ethyl N-phenylthio-2-[4-(3,5-difluorophenoxy)phenoxy]ethylcarbamate
A solution of the sodium salt of 4-(3,5-difluorophenoxy)phenol (prepared from 4.3 g of 4-(3,5-difluorophenoxy)phenol and 0.8 g of a 55% dispersion of sodium hydride in mineral oil in 40 ml of dry dimethyl sulfoxide) is metered at a constant rate at +25° C. in the course of 5 hours to a solution of 6.5 g of ethyl N-phenylthio-2-methylsulfonyloxyethylcarbamate and 0.1 g of hydroquinone in 20 ml of anhydrons dimethyl sulfoxide, with stirring. The mixture is stirred for 5 more hours at room temperature. After this, the reaction mixture is poured into ice-water and extracted repeatedly with an ether/hexane mixture (1:4), and the combined organic phases are washed with water and dried over sodium sulfate. After the solvents have been distilled off in vacuo, the crude product is purified by chromatography, by which process ethyl N-phenylthio-2-[4-(3,5-difluorophenoxy)phenoxy]ethylcarbamate is isolated, nD20 : 1.5700.

reactant | sodium | [Na] | Na
reactant | 4-(3,5-difluorophenoxy)phenol | FC=1C=C(OC2=CC=C(C=C2)O)C=C(C1)F | C12H8F2O2
reactant | 4-(3,5-difluorophenoxy)phenol | 4.3 g | FC=1C=C(OC2=CC=C(C=C2)O)C=C(C1)F | C12H8F2O2
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl N-phenylthio-2-methylsulfonyloxyethylcarbamate | 6.5 g | C1(=CC=CC=C1)SN(C(OCC)=O)CCOS(=O)(=O)C | C12H17NO5S2
reactant | hydroquinone | 0.1 g | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | dimethyl sulfoxide | 40 ml | CS(=O)C | C2H6OS
product | Ethyl N-phenylthio-2-[4-(3,5-difluorophenoxy)phenoxy]ethylcarbamate | C1(=CC=CC=C1)SN(C(OCC)=O)CCOC1=CC=C(C=C1)OC1=CC(=CC(=C1)F)F | C23H21F2NO4S
